US03994890
By the procedure similar to that described in Example 33, 1-phthalimidopropyl-3-phenylindazole (6.0 g) and hydrazine hydrate (2.0 g) were treated to obtain 3.8 g of 1-aminopropyl-3-phenylindazole as an oily product.

reactant | 1-phthalimidopropyl-3-phenylindazole | 6.0 g | C1(C=2C(C(N1C(CC)C1=C3C(=NNC3=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C24H19N3O2
reactant | hydrazine hydrate | 2.0 g | O.NN
product | 1-aminopropyl-3-phenylindazole | 3.8 g | NC(CC)C1=C2C(=NNC2=CC=C1)C1=CC=CC=C1 | C16H17N3
